US07098247B2
To a solution of 33.43 mg (0.288 mmol) 3-methylpentanoic acid in 1 ml THF were added 46.67 mg (0.288 mmol) 1,1′-carbonyldiimidazol. After 1 h at rt 100 mg (0.288 mmol) {2-[(5-aminomethyl-thiophene-2-carbonyl)-amino]-phenyl}-carbamic acid t-butyl ester were added and the reaction mixture was stirred for 3 h at rt. 1.7 ml trifluoroacetic acid were added and after 2 h at rt sat. aqueous NaHCO3 was added carefully and the aqueous phase was extracted three times with ethyl acetate. The combined organic phases were dried over Na2SO4. The solvent was evaporated and the residue was subjected to silica gel chromatography (ethyl acetate/heptane 6:4) to yield 59.3 mg (0.171 mmol) 5-[(3-Methyl-pentanoylamino)-methyl]-thiophene-2-carboxylic acid (2-amino-phenyl)-amide; exact MW [M+H] calc'd: 346.16; MW found [M+H]: 346.4.

reactant | 3-methylpentanoic acid | 0.288 mmol, 33.43 mg | CC(CC(=O)O)CC | C6H12O2
reactant | 1,1′-carbonyldiimidazol | 0.288 mmol, 46.67 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | {2-[(5-aminomethyl-thiophene-2-carbonyl)-amino]-phenyl}-carbamic acid t-butyl ester | 0.288 mmol, 100 mg | C(C)(C)(C)OC(NC1=C(C=CC=C1)NC(=O)C=1SC(=CC1)CN)=O | C17H21N3O3S
reactant | trifluoroacetic acid | 1.7 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 5-[(3-Methyl-pentanoylamino)-methyl]-thiophene-2-carboxylic acid (2-amino-phenyl)-amide | 0.171 mmol, 59.3 mg | NC1=C(C=CC=C1)NC(=O)C=1SC(=CC1)CNC(CC(CC)C)=O | C18H23N3O2S
